US07994204B2
1-[3-Ethyl-2-(4-fluorophenoxy)-3H-imidazol-4-yl]-ethanone
A mixture of the compound obtained in Example 5-(2) (13.20 g), 4-fluorophenol (12.86 g), Cs2CO3 (49.9 g) and DMPU (15 ml) was stirred at 200° C. for 2 hours. After cooling to room temperature, MeOH/CHCl3 (MeOH/CHCl3=20%) was added and insoluble materials were filtered off. The filtrate was concentrated, and the resulting crude product was purified by column chromatography (OH-type neutral SiO2, AcOEt/hexane=0% to 30%) to give the titled compound (22.37 g, light-yellow oil).

reactant | 4-fluorophenol | 12.86 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | Cs2CO3 | 49.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMPU | 15 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 1-[3-Ethyl-2-(4-fluorophenoxy)-3H-imidazol-4-yl]-ethanone | 22.37 g | C(C)N1C(=NC=C1C(C)=O)OC1=CC=C(C=C1)F | C13H13FN2O2
